US09353082B2
a) 1-(4,4-dimethyloxazolidine-3-carbonyl)-1H-benzo[d][1,2,3]triazole-5-carboxylic acid
A solution of 1H-benzo[d][1,2,3]triazole-5-carboxylic acid (3 g, 18.39 mmol) in a mixture of tetrahydrofuran (90 mL) and dimethylformamide (50 mL) was added dropwise to a stirred suspension of sodium hydride (1.839 g, 46 mmol) in tetrahydrofuran (30 mL) at 0° C. The suspension was allowed to stir at room temperature for 30 minutes before adding dropwise, at 0° C., a solution of 4,4-dimethyloxazolidine-3-carbonyl chloride (3.16 g, 19.31 mmol) in tetrahydrofuran (10 mL). The reaction mixture was allowed to stir at room temperature for 4 h. Water was added at 0° C. and the solvent was evaporated. A mixture of dichloromethane/isopropanol (7:3) was added and the organic layer was separated. The aqueous layer was re-extracted with dichloromethane and the combined organic layers were dried (MgSO4), filtered and evaporated. The orange residue was recrystallised from isopropanol to give a beige solid (840 mg) that was used in the next step without further purification.

reactant | 1H-benzo[d][1,2,3]triazole-5-carboxylic acid | 18.39 mmol, 3 g | N1N=NC2=C1C=CC(=C2)C(=O)O | C7H5N3O2
reactant | sodium hydride | 46 mmol, 1.839 g | [H-].[Na+]
reactant | 4,4-dimethyloxazolidine-3-carbonyl chloride | 19.31 mmol, 3.16 g | CC1(N(COC1)C(=O)Cl)C | C6H10ClNO2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-(4,4-dimethyloxazolidine-3-carbonyl)-1H-benzo[d][1,2,3]triazole-5-carboxylic acid | 840 mg | CC1(N(COC1)C(=O)N1N=NC2=C1C=CC(=C2)C(=O)O)C | C13H14N4O4
